Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
urinary retention
 
Major Surgical or Invasive Procedure:
___ cerclage

 
History of Present Illness:
___ yo G6P1131 at 21w3d with short cervix 1.2-1.3 cm on ___ 
underwent ultrasound indicated cerclage placement. For the 
cerclage she had two spinal anesthetics placed but both were 
ineffective other than a small saddle block. As a result she 
received general anesthesia. After the suregery, she failed her 
voiding trial x2. 
 
Past Medical History:
PNC: 
- ___ ___ by LMP c/w ___ wk u/s
- Screening: LR ERA ___ T21, ___ T18
- after discovery of fetal anomalies 
- U/S ___: EFW 397g, right club foot noted, left kidney is
multicystic dysplastic. Short cervix with funneling, 1.2-1.3 cm.
Absent gastric bubble. 
- AFCC: fetal MRI with male fetus, enlarged left kidney with
multiple corically based macrocytes and increased T2 signal
within the renal medulla suggestive of microcysts. Moderate 
right
sided club foot. 
        Fetal brain MRI: normal apart from bilateral apparent
prominence of the choroid plexus that is of uncertain
significance
        Fetal echo: normal
 
OBHx: G6P1131
- TAb x2
- ___: 22 week fetal demise -> D+E, ___ tri SAb
- ___: received 17 OHP, full term SVD 5#2, IOL for PIH, IUGR
 
GynHx:
- Denies abnormal Pap, fibroids, Gyn surgery, STIs
- hx PCOS

PMH: 
- PCOS 

PSH: 
- D+C x2
- Hernia repair

 
Social History:
denies T/E/D

 
Physical Exam:
Gen: A&O, comfortable
CV: RRR
PULM: CTAB
Abd: soft, gravid, nontender
Ext: nontender, no edema

 
Pertinent Results:
None.
 
Brief Hospital Course:
Ms. ___ was admitted to the hospital on postoperative day ___ 
s/p uncomplicated shirodkar cerclage. During the case she 
received two spinals which were ineffective other than a saddle 
block, requiring general anesthesia. Please see operative report 
for full details. Postoperatively she was unable to void and was 
admitted to the hospital for observation. She had a foley 
catheter replaced. On postoperative day 1 the foley was removed 
and she was able to void spontaneously. She was tolerating a 
regular diet. Her pain was controlled on oral pain medications. 
She was discharged home on postoperative day one in good 
condition. 
 
Medications on Admission:
PNV
 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Indomethacin 25 mg PO Q6H:PRN cramping Duration: 2 Days 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Short cervix

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital after your cerclage for 
urinary retention. We took out your foley and you were able to 
urinate spontaneously. It was felt you are safe to go home. Take 
all of your medications as prescribed. Do not drive or operate 
heavy machinary while taking narcotics. You should continue 
pelvic rest (nothing in the vagina: no douching, tampons or 
sex).
 
Followup Instructions:
___